* PEX produced on Wed Sep  9 10:49:54 AM CEST 2026 using /foss/tools/sak/sak-pex.sh with m=2 and s=1
* NGSPICE file created from opamp_rtr_pex.ext - technology: ihp-sg13cmos5l

.subckt opamp_rtr_pex vdd inp vss inn ibias out
X0 out a_9288_5041# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X1 vdd a_592_286# a_1392_382# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X2 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=62.7835p ps=0.25869m w=3.75u l=0.4u
X3 vss ibias a_442_5111# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X4 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=13.7666p ps=96.82u w=1.25u l=0.45u
X5 out a_1076_5541# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X6 vss vss vss vss sg13_hv_nmos ad=0.85p pd=5.68u as=0.18235n ps=0.8465m w=2.5u l=0.45u
X7 ibias ibias vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X8 vdd vdd vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.18065n ps=0.47106m w=3.75u l=0.4u
X9 w_8388_2366# a_592_286# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X10 a_9288_5041# inp w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X11 a_9288_5041# a_8488_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X12 a_592_2733# a_592_2733# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X13 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.45u
X14 w_8388_2366# inn a_8488_4945# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X15 w_8388_2366# a_3520_5051# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X16 out a_9288_5041# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X17 a_592_2733# inn a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X18 a_12881_4979# a_14767_4615# vss rhigh l=9u w=1u
X19 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=2.55p pd=15.68u as=0 ps=0 w=7.5u l=0.4u
X20 a_11355_6131# a_1392_382# a_1392_382# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X21 a_442_5111# a_4818_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X22 a_8488_4945# inn w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X23 vss vss vss vss sg13_hv_nmos ad=0.425p pd=3.18u as=0 ps=0 w=1.25u l=0.45u
X24 vss vss vss rhigh l=9u w=1u
X25 a_1076_5541# a_592_2733# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X26 vss vss vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.45u
X27 a_12881_4251# a_1076_5541# vss rhigh l=9u w=1u
X28 vdd vdd vdd vdd sg13_hv_pmos ad=1.275p pd=8.18u as=0 ps=0 w=3.75u l=0.4u
X29 a_9288_5041# a_8488_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X30 a_442_5111# a_592_286# a_3520_5051# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X31 vss a_9288_5041# out vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X32 a_1076_5541# a_1076_5541# a_1076_5541# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=34.7735p ps=0.10686m w=7.5u l=1u
X33 vdd a_592_286# a_5933_6071# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X34 a_12881_2795# a_14767_3159# vss rhigh l=9u w=1u
X35 a_442_5111# inn a_592_2733# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X36 vdd a_1076_5541# out vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X37 vss vss vss rhigh l=9u w=1u
X38 vss vss vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.45u
X39 vss ibias a_592_286# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X40 vdd vdd vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0 ps=0 w=3.75u l=0.4u
X41 vss a_5933_6071# a_5933_6071# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X42 vdd a_592_2733# a_1076_5541# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X43 a_3520_5051# a_592_286# a_442_5111# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X44 vdd a_592_2733# a_1076_5541# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X45 a_9508_346# a_9508_346# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X46 vdd a_3520_5051# a_3520_5051# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X47 a_4818_4945# a_4818_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X48 a_442_5111# inp a_1076_5541# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X49 vdd a_3520_5051# a_3520_5051# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X50 vdd vdd vdd vdd sg13_hv_pmos ad=2.55p pd=15.68u as=0 ps=0 w=7.5u l=0.4u
X51 vss a_4818_4945# a_4818_4945# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X52 a_442_5111# ibias vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X53 w_8388_2366# a_3520_5051# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X54 a_5933_6071# a_592_286# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X55 a_1076_5541# a_592_286# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X56 a_4818_4945# a_4818_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X57 a_442_5111# inp a_1076_5541# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X58 vss vss vss vss sg13_hv_nmos ad=0.425p pd=3.18u as=0 ps=0 w=1.25u l=0.45u
X59 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0 ps=0 w=3.75u l=0.4u
X60 vss a_5933_6071# a_9288_5041# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X61 vss vss vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0 ps=0 w=1.25u l=0.45u
X62 vdd a_1076_5541# out vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X63 vss vss vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0 ps=0 w=1.25u l=0.45u
X64 a_9288_5041# a_9288_5041# a_9288_5041# vss sg13_hv_nmos ad=0.85p pd=5.68u as=17.3283p ps=85.93999u w=2.5u l=1u
X65 vdd vdd vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=0 ps=0 w=7.5u l=0.4u
X66 a_9288_5041# a_9288_5041# a_9288_5041# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=1u
X67 a_8488_4945# inn w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X68 a_8488_4945# a_8488_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X69 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=1.275p pd=8.18u as=0 ps=0 w=3.75u l=0.4u
X70 vss vss vss vss sg13_hv_nmos ad=0.85p pd=5.68u as=0 ps=0 w=2.5u l=0.45u
X71 a_12881_3523# a_9288_5041# vss rhigh l=9u w=1u
X72 vdd a_592_286# a_1076_5541# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X73 a_592_2733# inn a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X74 a_442_5111# inn a_592_2733# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X75 a_1392_382# a_1392_382# a_11355_6131# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X76 a_9288_5041# inp w_8388_2366# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X77 vss a_5933_6071# a_6733_6167# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X78 out a_9288_5041# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X79 a_1076_5541# a_6733_6167# a_9288_5041# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X80 vdd a_9508_346# a_9508_346# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X81 a_12881_4251# a_14767_4615# vss rhigh l=9u w=1u
X82 a_5933_6071# a_5933_6071# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X83 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.425p pd=3.18u as=0 ps=0 w=1.25u l=0.45u
X84 a_1076_5541# a_592_2733# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X85 vss vss vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.45u
X86 vdd vdd vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=0 ps=0 w=7.5u l=0.4u
X87 a_442_5111# a_4818_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X88 a_9508_346# a_6733_6167# a_6733_6167# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X89 vss ibias ibias vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X90 vss a_9288_5041# out vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X91 out a_1076_5541# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X92 vss a_4818_4945# a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X93 a_4818_4945# a_592_286# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X94 a_11355_6131# a_11355_6131# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X95 a_592_2733# a_592_2733# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X96 vss a_11355_6131# a_11355_6131# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X97 vss a_8488_4945# a_8488_4945# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X98 a_9288_5041# a_6733_6167# a_1076_5541# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X99 vdd vdd vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0 ps=0 w=3.75u l=0.4u
X100 vdd vdd vdd vdd sg13_hv_pmos ad=1.275p pd=8.18u as=0 ps=0 w=3.75u l=0.4u
X101 w_8388_2366# inn a_8488_4945# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X102 vss a_4818_4945# a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X103 a_1076_5541# inp a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X104 vss vss vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0 ps=0 w=1.25u l=0.45u
X105 a_1076_5541# a_1392_382# a_9288_5041# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X106 a_3520_5051# a_3520_5051# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X107 vss vss vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0 ps=0 w=1.25u l=0.45u
X108 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.425p pd=3.18u as=0 ps=0 w=1.25u l=0.45u
X109 out a_9288_5041# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X110 vdd a_592_286# w_8388_2366# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X111 vss a_8488_4945# a_9288_5041# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X112 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=1.425p pd=7.88u as=0 ps=0 w=7.5u l=0.4u
X113 vdd a_592_286# a_592_286# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X114 w_8388_2366# inp a_9288_5041# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X115 vss a_9288_5041# out vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X116 vdd a_592_2733# a_592_2733# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X117 out a_1076_5541# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X118 vdd a_3520_5051# w_8388_2366# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X119 a_9288_5041# a_1392_382# a_1076_5541# vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X120 a_1392_382# a_592_286# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X121 w_8388_2366# w_8388_2366# w_8388_2366# w_8388_2366# sg13_hv_pmos ad=1.275p pd=8.18u as=0 ps=0 w=3.75u l=0.4u
X122 a_3520_5051# a_3520_5051# vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X123 a_12881_4979# a_14767_5343# vss rhigh l=9u w=1u
X124 a_9288_5041# a_5933_6071# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X125 vdd a_1076_5541# out vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X126 vss vss vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0 ps=0 w=2.5u l=0.45u
X127 a_12881_2795# a_14767_2795# vss rhigh l=9u w=1u
X128 w_8388_2366# a_592_286# a_4818_4945# w_8388_2366# sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X129 a_8488_4945# a_8488_4945# vss vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X130 vdd vdd vdd vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0 ps=0 w=3.75u l=0.4u
X131 vdd a_592_2733# a_592_2733# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X132 vss a_8488_4945# a_9288_5041# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X133 a_12881_3523# a_14767_3159# vss rhigh l=9u w=1u
X134 vdd a_3520_5051# w_8388_2366# vdd sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=4u
X135 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.85p pd=5.68u as=0 ps=0 w=2.5u l=0.45u
X136 vdd vdd vdd vdd sg13_hv_pmos ad=2.55p pd=15.68u as=0 ps=0 w=7.5u l=0.4u
X137 a_592_286# a_592_286# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=4u
X138 vss a_4818_4945# a_4818_4945# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X139 a_442_5111# a_442_5111# a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0 ps=0 w=1.25u l=0.45u
X140 vdd vdd vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=0 ps=0 w=7.5u l=0.4u
X141 a_592_286# ibias vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X142 vss a_9288_5041# out vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=1u
X143 out a_1076_5541# vdd vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X144 a_1076_5541# a_1076_5541# a_1076_5541# vdd sg13_hv_pmos ad=2.55p pd=15.68u as=0 ps=0 w=7.5u l=1u
X145 vss a_8488_4945# a_8488_4945# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=4u
X146 a_1076_5541# inp a_442_5111# vss sg13_hv_nmos ad=0.2375p pd=1.63u as=0.2375p ps=1.63u w=1.25u l=2u
X147 a_6733_6167# a_6733_6167# a_9508_346# vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
X148 w_8388_2366# inp a_9288_5041# w_8388_2366# sg13_hv_pmos ad=0.7125p pd=4.13u as=0.7125p ps=4.13u w=3.75u l=2u
X149 a_6733_6167# a_5933_6071# vss vss sg13_hv_nmos ad=0.475p pd=2.88u as=0.475p ps=2.88u w=2.5u l=4u
X150 vdd a_1076_5541# out vdd sg13_hv_pmos ad=1.425p pd=7.88u as=1.425p ps=7.88u w=7.5u l=1u
C0 a_4818_4945# inp 0.23197f
C1 out a_14767_5343# 0.33471p
C2 a_12881_2795# a_12967_3159# 0.03876f
C3 w_8388_2366# a_12881_2795# 0.03879f
C4 out a_1076_5541# 2.50637f
C5 a_442_5111# a_3520_5051# 0.44282f
C6 ibias a_592_2733# 0.04618f
C7 a_6733_6167# a_5933_6071# 2.25971f
C8 a_12967_4979# a_14767_5343# 0.04329f
C9 a_1076_5541# a_12967_4979# 0.04703f
C10 vdd a_3520_5051# 20.341f
C11 inp a_9288_5041# 1.40218f
C12 a_3520_5051# a_592_2733# 0.11013f
C13 w_8388_2366# a_3520_5051# 1.95611f
C14 a_12967_4615# a_12967_4979# 0.20927f
C15 a_12967_4251# a_14767_5343# 0.01305f
C16 a_4818_4945# a_8488_4945# 0.28196f
C17 a_5933_6071# a_1392_382# 0.07674f
C18 a_14767_2795# a_1076_5541# 0.08049f
C19 a_442_5111# a_6733_6167# 0.01655f
C20 a_12967_4251# a_1076_5541# 0.19604f
C21 a_1076_5541# a_12967_3523# 0.02011f
C22 ibias inp 0.16028f
C23 w_8388_2366# a_12881_3523# 0.04192f
C24 a_9288_5041# a_14767_5343# 0.04052f
C25 a_1076_5541# a_9288_5041# 3.56717f
C26 a_12967_4615# a_12967_4251# 0.20927f
C27 a_5933_6071# inn 0.02645f
C28 vdd a_9508_346# 2.73634f
C29 a_12967_5343# a_12967_5707# 0.20927f
C30 vdd a_6733_6167# 3.98013f
C31 inp a_3520_5051# 0.11543f
C32 a_5933_6071# a_592_286# 1.18671f
C33 a_12881_3523# a_12881_4251# 0.01672f
C34 w_8388_2366# a_9508_346# 0.01462f
C35 a_12881_2795# a_1076_5541# 0.02347f
C36 w_8388_2366# a_6733_6167# 0.34064f
C37 a_12967_5343# a_12881_4979# 0.03876f
C38 a_12881_4251# a_12881_4979# 0.01672f
C39 a_12967_3887# a_1076_5541# 0.03091f
C40 a_8488_4945# a_9288_5041# 1.38579f
C41 a_14767_2795# out 0.33643p
C42 a_442_5111# inn 0.97231f
C43 vdd a_1392_382# 2.12514f
C44 out a_9288_5041# 1.36469f
C45 a_442_5111# a_592_286# 0.77885f
C46 w_8388_2366# a_1392_382# 1.34032f
C47 a_1392_382# a_592_2733# 0.08807f
C48 a_1076_5541# a_3520_5051# 0.20675f
C49 inp a_9508_346# 0.01072f
C50 vdd inn 0.30448f
C51 inp a_6733_6167# 0.04296f
C52 vdd a_592_286# 39.8003f
C53 w_8388_2366# inn 6.13335f
C54 inn a_592_2733# 1.36419f
C55 a_12967_5707# a_14767_5343# 0.04289f
C56 w_8388_2366# a_592_286# 3.48603f
C57 a_592_286# a_592_2733# 0.62365f
C58 a_1076_5541# a_12881_3523# 0.02244f
C59 a_1076_5541# a_12881_4979# 0.02632f
C60 a_14767_2795# a_12967_3523# 0.04329f
C61 inp a_1392_382# 0.20624f
C62 a_14767_2795# a_9288_5041# 1.0758f
C63 a_12967_4251# a_9288_5041# 0.01473f
C64 a_9508_346# a_1076_5541# 0.0855f
C65 a_6733_6167# a_1076_5541# 1.62117f
C66 a_12967_3523# a_9288_5041# 0.05266f
C67 ibias a_4818_4945# 0.44789f
C68 inp inn 5.07118f
C69 a_14767_3159# a_12967_3159# 0.03876f
C70 a_12967_4251# a_12967_3887# 0.20927f
C71 inp a_592_286# 0.43322f
C72 a_4818_4945# a_3520_5051# 0.78505f
C73 a_12967_3887# a_12967_3523# 0.20927f
C74 a_12967_3887# a_9288_5041# 0.17703f
C75 a_1076_5541# a_1392_382# 1.88462f
C76 a_442_5111# a_5933_6071# 0.06572f
C77 a_12967_4979# a_12881_4979# 0.03876f
C78 a_1076_5541# inn 0.39797f
C79 a_8488_4945# a_1392_382# 0.3486f
C80 vdd a_5933_6071# 0.79989f
C81 a_1076_5541# a_592_286# 1.93392f
C82 w_8388_2366# a_5933_6071# 0.43298f
C83 a_4818_4945# a_6733_6167# 0.30974f
C84 a_8488_4945# inn 1.31946f
C85 a_8488_4945# a_592_286# 0.09532f
C86 a_12967_3523# a_12881_3523# 0.03876f
C87 a_12967_5707# a_9288_5041# 0.02198f
C88 a_442_5111# vdd 0.03377f
C89 a_8488_4945# a_11355_6131# 0.05561f
C90 a_9288_5041# a_12881_3523# 0.02692f
C91 ibias a_3520_5051# 0.01869f
C92 a_12967_2431# a_12967_2795# 0.20927f
C93 a_442_5111# w_8388_2366# 0.01993f
C94 a_442_5111# a_592_2733# 0.34884f
C95 a_12967_3159# a_12967_2795# 0.20927f
C96 a_12881_2795# a_12881_3523# 0.01672f
C97 inp a_5933_6071# 0.07536f
C98 a_12967_3887# a_12881_3523# 0.03876f
C99 a_6733_6167# a_9288_5041# 0.62999f
C100 vdd w_8388_2366# 1.65987f
C101 vdd a_592_2733# 19.8957f
C102 a_4818_4945# inn 0.02908f
C103 a_4818_4945# a_592_286# 0.57749f
C104 a_442_5111# inp 0.95508f
C105 a_9288_5041# a_1392_382# 1.22566f
C106 w_8388_2366# a_12881_4251# 0.04f
C107 a_5933_6071# a_1076_5541# 0.13572f
C108 a_6733_6167# a_3520_5051# 0.12248f
C109 a_9288_5041# inn 0.32254f
C110 vdd inp 0.12326f
C111 a_8488_4945# a_5933_6071# 1.42862f
C112 w_8388_2366# inp 6.12256f
C113 inp a_592_2733# 0.31895f
C114 a_9288_5041# a_11355_6131# 0.08475f
C115 a_442_5111# a_1076_5541# 0.26405f
C116 a_1076_5541# a_12967_2795# 0.02684f
C117 a_14767_2795# a_14767_3159# 0.1032f
C118 a_3520_5051# a_1392_382# 0.18479f
C119 a_14767_4615# a_14767_5343# 0.10346f
C120 ibias inn 0.12725f
C121 a_14767_4615# a_1076_5541# 0.02542f
C122 a_14767_3159# a_12967_3523# 0.03876f
C123 ibias a_592_286# 0.80911f
C124 vdd a_1076_5541# 16.4562f
C125 a_12967_2431# a_1076_5541# 0.09942f
C126 a_6733_6167# a_9508_346# 1.06577f
C127 a_14767_3159# a_9288_5041# 0.02632f
C128 a_12967_3159# a_1076_5541# 0.02269f
C129 a_3520_5051# inn 0.41738f
C130 w_8388_2366# a_1076_5541# 0.18098f
C131 a_1076_5541# a_592_2733# 3.45441f
C132 a_12967_4615# a_14767_4615# 0.03876f
C133 a_3520_5051# a_592_286# 0.37968f
C134 a_12967_5707# a_1392_382# 0.05833f
C135 a_4818_4945# a_5933_6071# 1.14036f
C136 a_12967_5343# a_14767_5343# 0.08145f
C137 a_12967_5343# a_1076_5541# 0.04008f
C138 a_1076_5541# a_12881_4251# 0.04323f
C139 w_8388_2366# a_8488_4945# 1.83939f
C140 a_6733_6167# a_1392_382# 0.636f
C141 a_12967_4615# a_12881_4251# 0.03876f
C142 vdd out 2.11845f
C143 a_4818_4945# a_442_5111# 1.04724f
C144 inp a_1076_5541# 0.6563f
C145 a_5933_6071# a_9288_5041# 0.61977f
C146 a_6733_6167# inn 0.0433f
C147 a_14767_4615# a_12967_4979# 0.03876f
C148 a_9508_346# a_592_286# 0.04283f
C149 a_6733_6167# a_592_286# 0.08698f
C150 a_4818_4945# vdd 0.15626f
C151 a_8488_4945# inp 0.6188f
C152 a_14767_2795# a_12967_2795# 0.08145f
C153 a_4818_4945# w_8388_2366# 0.54521f
C154 a_1076_5541# a_14767_5343# 0.08664f
C155 a_12967_5343# a_12967_4979# 0.20927f
C156 inn a_1392_382# 0.1848f
C157 a_12967_2795# a_9288_5041# 0.04495f
C158 a_14767_2795# vdd 0.31715f
C159 a_14767_2795# a_12967_2431# 0.0255f
C160 a_1392_382# a_592_286# 1.91613f
C161 a_14767_2795# a_12967_3159# 0.04329f
C162 a_12967_4615# a_14767_5343# 0.04329f
C163 a_12881_2795# a_12967_2795# 0.03876f
C164 a_12967_4615# a_1076_5541# 0.06311f
C165 a_1392_382# a_11355_6131# 0.61898f
C166 a_12967_3159# a_12967_3523# 0.20927f
C167 vdd a_9288_5041# 0.66411f
C168 a_12967_2431# a_9288_5041# 0.01328f
C169 inn a_592_286# 0.18492f
C170 a_12967_3159# a_9288_5041# 0.04099f
C171 w_8388_2366# a_9288_5041# 1.17037f
C172 a_12967_4251# a_12881_4251# 0.03876f
C173 ibias a_442_5111# 0.83126f
C174 out vss 41.77476f
C175 a_14767_2795# vss 13.19872f
C176 a_12881_2795# vss 1.69786f
C177 a_14767_3159# vss 1.63674f
C178 a_12881_3523# vss 1.6197f
C179 a_12881_4251# vss 1.62754f
C180 a_14767_4615# vss 1.64562f
C181 a_14767_5343# vss 14.34004f
C182 a_12881_4979# vss 1.7587f
.ends

